### PR TITLE
[Merged by Bors] - feat: ZMod cyclic equivs

### PR DESCRIPTION
**Pull request by yongyi781**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 1]
```diff
@@ -680,3 +680,90 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+section ZMod
+
+open Subgroup AddSubgroup
+
+variable {G H : Type*}
+
+/-- The isomorphism between `(Multiplicative G) / ⟨.ofAdd g⟩` and `Multiplicative (G / ⟨g⟩)`. -/
+def multiplicativeQuotientZpowersZmultiplesMulEquiv [AddCommGroup G] (g : G) :
+    Multiplicative G ⧸ zpowers (Multiplicative.ofAdd g) ≃* Multiplicative (G ⧸ zmultiples g) := by
+  rfl
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:693]: since this is data:
```suggestion
    Multiplicative G ⧸ zpowers (Multiplicative.ofAdd g) ≃* Multiplicative (G ⧸ zmultiples g) :=
  MulEquiv.refl _
```

Please also add a lemma that says what `multiplicativeQuotientZpowersZmultiplesMulEquiv` applied to `QuotientGroup.mk` is, and similarly for `.symm`.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 2]
```diff
@@ -680,3 +680,90 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+  let n := Nat.card G
+  let ⟨g, surj⟩ := Classical.indefiniteDescription _ h.exists_generator
+  have kereq : ((zmultiplesHom G) g).ker = zmultiples ↑(Nat.card G) := by
+    rw [zmultiplesHom_ker_eq]
+    congr
+    rw [← Nat.card_zmultiples]
+    exact Nat.card_congr (Equiv.subtypeUnivEquiv surj)
+  exact (Int.quotientZmultiplesNatEquivZMod n)
+    |>.symm.trans <| QuotientAddGroup.quotientAddEquivOfEq kereq
+    |>.symm.trans <| QuotientAddGroup.quotientKerEquivOfSurjective (zmultiplesHom G g) surj
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:743]: The former can be proved easily from the latter (after swapping the order):
```suggestion
/-- The isomorphism from `ZMod n` to any cyclic additive group of `Nat.card` equal to `n`. -/
noncomputable def zmodAddCyclicAddEquiv [AddGroup G] (h : IsAddCyclic G) :
    ZMod (Nat.card G) ≃+ G := by
  let n := Nat.card G
  let ⟨g, surj⟩ := Classical.indefiniteDescription _ h.exists_generator
  have kereq : ((zmultiplesHom G) g).ker = zmultiples ↑(Nat.card G) := by
    rw [zmultiplesHom_ker_eq]
    congr
    rw [← Nat.card_zmultiples]
    exact Nat.card_congr (Equiv.subtypeUnivEquiv surj)
  exact (Int.quotientZmultiplesNatEquivZMod n)
    |>.symm.trans <| QuotientAddGroup.quotientAddEquivOfEq kereq
    |>.symm.trans <| QuotientAddGroup.quotientKerEquivOfSurjective (zmultiplesHom G g) surj

/-- The isomorphism from `Multiplicative (ZMod n)` to any cyclic group of `Nat.card` equal to `n`.
-/
noncomputable def zmodCyclicMulEquiv [Group G] (h : IsCyclic G) :
    Multiplicative (ZMod (Nat.card G)) ≃* G :=
  AddEquiv.toMultiplicative <| zmodAddCyclicAddEquiv <| isAddCyclic_additive_iff.2 h
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 3]
```diff
@@ -680,3 +680,90 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+    (h : G) :
+    (multiplicativeQuotientZpowersZmultiplesMulEquiv g).symm (QuotientAddGroup.mk h) =
+    QuotientGroup.mk (.ofAdd h) := rfl
+
+/-- The kernel of `zpowersHom G g` is equal to the subgroup generated by `orderOf g`. -/
+theorem zpowersHom_ker_eq [Group G] (g : G) :
+    (zpowersHom G g).ker = zpowers (Multiplicative.ofAdd ↑(orderOf g)) := by
+  ext n
+  rw [MonoidHom.mem_ker, mem_zpowers_iff, zpowersHom_apply, ← orderOf_dvd_iff_zpow_eq_one]
+  let m : ℤ := n
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:710]: This is defeq abuse, and suggests we're missing some lemmas about `Multiplicative`.

`simp_rw [← ofAdd_zsmul]` helps a little here.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 4]
```diff
@@ -680,3 +680,90 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+
+/-- The isomorphism from `Multiplicative (ZMod n)` to any cyclic group of `Nat.card` equal to `n`.
+-/
+noncomputable def zmodCyclicMulEquiv [Group G] (h : IsCyclic G) :
+    Multiplicative (ZMod (Nat.card G)) ≃* G :=
+  AddEquiv.toMultiplicative <| zmodAddCyclicAddEquiv <| isAddCyclic_additive_iff.2 h
+
+/-- Two cyclic groups of the same cardinality are isomorphic. -/
+noncomputable def mulEquivOfCyclicCardEq [Group G] [Group H] (hG : IsCyclic G)
+    (hH : IsCyclic H) (hcard : Nat.card G = Nat.card H) : G ≃* H := hcard ▸
```
Comment (MichaelStollBayreuth) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:747]: `IsCyclic` and `IsAddCyclic` are type classes, so the arguments  can be changed to `[hG : IsCyclic G] [hH : IsCyclic H]` (and similarly for the additive version).

In the proof of `mulEquivOfPrimeCardEq` below, you can use `(hG := isCyclic_of_prime_card hG)` to specify the instance or, use `have hGcyc := isCyclic_of_prime_card hG` (and similarly for `H`) before the `apply` and then leave them  out.

Comment (MichaelStollBayreuth) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:747]:
```suggestion
noncomputable def mulEquivOfCyclicCardEq [Group G] [Group H] [hG : IsCyclic G]
    [hH : IsCyclic H] (hcard : Nat.card G = Nat.card H) : G ≃* H := hcard ▸
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 5]
```diff
@@ -680,3 +680,90 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+  zmodCyclicMulEquiv hG |>.symm.trans (zmodCyclicMulEquiv hH)
+
+/-- Two cyclic additive groups of the same cardinality are isomorphic. -/
+noncomputable def addEquivofAddCyclicCardEq [AddGroup G] [AddGroup H] (hG : IsAddCyclic G)
+    (hH : IsAddCyclic H) (hcard : Nat.card G = Nat.card H) : G ≃+ H := hcard ▸
```
Comment (MichaelStollBayreuth) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:752]:
```suggestion
noncomputable def addEquivofAddCyclicCardEq [AddGroup G] [AddGroup H] [hG : IsAddCyclic G]
    [hH : IsAddCyclic H] (hcard : Nat.card G = Nat.card H) : G ≃+ H := hcard ▸
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 6]
```diff
@@ -680,3 +680,90 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+  zmodAddCyclicAddEquiv hG |>.symm.trans (zmodAddCyclicAddEquiv hH)
+
+/-- Two groups of the same prime cardinality are isomorphic. -/
+noncomputable def mulEquivOfPrimeCardEq {p : ℕ} [Fintype G] [Fintype H] [Group G] [Group H]
+    [Fact p.Prime] (hG : Fintype.card G = p) (hH : Fintype.card H = p) : G ≃* H := by
+  apply mulEquivOfCyclicCardEq (isCyclic_of_prime_card hG) (isCyclic_of_prime_card hH)
```
Comment (MichaelStollBayreuth) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:758]:
```suggestion
  have hGcyc := isCyclic_of_prime_card hG
  have hHcyc := isCyclic_of_prime_card hH
  apply mulEquivOfCyclicCardEq
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 7]
```diff
@@ -680,3 +680,90 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+  rw [← Nat.card_eq_fintype_card] at hG hH
+  exact hG.trans hH.symm
+
+/-- Two additive groups of the same prime cardinality are isomorphic. -/
+noncomputable def addEquivOfPrimeCardEq {p : ℕ} [Fintype G] [Fintype H] [AddGroup G] [AddGroup H]
+    [Fact p.Prime] (hG : Fintype.card G = p) (hH : Fintype.card H = p) : G ≃+ H := by
+  apply addEquivofAddCyclicCardEq (isAddCyclic_of_prime_card hG) (isAddCyclic_of_prime_card hH)
```
Comment (MichaelStollBayreuth) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:765]:
```suggestion
  have hGcyc := isAddCyclic_of_prime_card hG
  have hHcyc := isAddCyclic_of_prime_card hH
  apply addEquivofAddCyclicCardEq
```

Comment (yongyi781) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: It seems like `@[to_additive]` has issues with everything in this section. For example:
```lean
/-
application type mismatch
  MonoidHom.ker
argument has type
  AddZeroClass G
but function has type
  [inst : MulOneClass G] → (Multiplicative ℤ →* G) → Subgroup (Multiplicative ℤ)
-/
@[to_additive test]
theorem zpowersHom_ker_eq [Group G] (g : G) :
    (zpowersHom G g).ker = zpowers (Multiplicative.ofAdd ↑(orderOf g)) := by
  ext n
  rw [MonoidHom.mem_ker, mem_zpowers_iff, zpowersHom_apply, ← orderOf_dvd_iff_zpow_eq_one]
  let m : ℤ := n
  change _ ∣ m ↔ ∃ k, k * (orderOf g : ℤ) = m
  conv in _ * _ = _ => rw [mul_comm, eq_comm]
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean (hunk 3 above)
Comment (yongyi781) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Just fixed this. Not sure if I'm still abusing the `divides = exists` defeq, but trying to type anything after the `conv_rhs` line naturally results in the error `no goals to be solved`.

Comment (yongyi781) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Never mind, found a better solution.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 8]
```diff
@@ -680,3 +680,95 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+    (multiplicativeQuotientZpowersZmultiplesMulEquiv g).symm (QuotientAddGroup.mk h) =
+    QuotientGroup.mk (.ofAdd h) := rfl
+
+/-- The kernel of `zpowersHom G g` is equal to the subgroup generated by `orderOf g`. -/
+theorem zpowersHom_ker_eq [Group G] (g : G) :
+    (zpowersHom G g).ker = zpowers (Multiplicative.ofAdd ↑(orderOf g)) := by
+  ext
+  simp_rw [MonoidHom.mem_ker, mem_zpowers_iff, zpowersHom_apply, ← orderOf_dvd_iff_zpow_eq_one,
+    ← ofAdd_zsmul, zsmul_eq_mul', Equiv.apply_eq_iff_eq_symm_apply, Int.cast_id,
+    Multiplicative.ofAdd_symm_eq, dvd_def, eq_comm]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:711]: Slight defeq abuse, but a much shorter proof is:
```suggestion
    (zpowersHom G g).ker = zpowers (Multiplicative.ofAdd ↑(orderOf g)) :=
  congr_arg AddSubgroup.toSubgroup <| zmultiplesHom_ker_eq (Additive.ofMul g)
```
(after swapping the order again)

I think this one is probably ok, because it if does fail it's easy to fix by adding lemmas about the interaction between `ker` and `toSubgroup` etc.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 9]
```diff
@@ -680,3 +680,83 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+    [Fact p.Prime] (hG : Fintype.card G = p) (hH : Fintype.card H = p) : G ≃* H := by
+  have hGcyc := isCyclic_of_prime_card hG
+  have hHcyc := isCyclic_of_prime_card hH
+  apply mulEquivOfCyclicCardEq
+  rw [← Nat.card_eq_fintype_card] at hG hH
+  exact hG.trans hH.symm
+
+attribute [to_additive existing zmultiplesHom_ker_eq] zpowersHom_ker_eq
+attribute [to_additive existing] zmodCyclicMulEquiv
+
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:761]: I don't think these are actually supported by `toAdditive`, as their statements are not similar enough (one has `Multiplicative`). I'd suggest removing them.

Comment (yongyi781) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:761]: All of them or just these two?

Comment (yongyi781) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:761]: Oh I didn't see your earlier commit, so "all of them" and "just these two" are now synonymous.

Comment (yongyi781) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:761]: So `zpowersHom` and `zadditiveHom` involve `Multiplicative` and use `@[to_additive existing ...]`, which was my reason to add these.

Comment (yongyi781) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:761]: I see.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 10]
```diff
@@ -680,3 +680,80 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+lemma multiplicativeQuotientZpowersZmultiplesMulEquiv_mk_eq [AddCommGroup G] (g : G)
+    (h : Multiplicative G) :
+    multiplicativeQuotientZpowersZmultiplesMulEquiv g (QuotientGroup.mk h) =
+    .ofAdd (QuotientAddGroup.mk h) := rfl
+
+lemma multiplicativeQuotientZpowersZmultiplesMulEquiv_symm_mk_eq [AddCommGroup G] (g : G)
+    (h : G) :
+    (multiplicativeQuotientZpowersZmultiplesMulEquiv g).symm (QuotientAddGroup.mk h) =
+    QuotientGroup.mk (.ofAdd h) := rfl
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:703]: I'd be tempted to split these to a new PR: you're not using them, and the name possibly could do with some bikeshedding. It would also be nice to have the `Additive` versions.

Comment (yongyi781) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:703]: Yeah, they used to be used in the proof of `zmodCyclicMulEquiv` but not anymore.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 11]
```diff
@@ -680,3 +680,65 @@ lemma not_isCyclic_iff_exponent_eq_prime [Group α] {p : ℕ} (hp : p.Prime)
...
+    |>.symm.trans <| QuotientAddGroup.quotientKerEquivOfSurjective (zmultiplesHom G g) surj
+
+/-- The isomorphism from `Multiplicative (ZMod n)` to any cyclic group of `Nat.card` equal to `n`.
+-/
+noncomputable def zmodCyclicMulEquiv [Group G] (h : IsCyclic G) :
+    Multiplicative (ZMod (Nat.card G)) ≃* G :=
+  AddEquiv.toMultiplicative <| zmodAddCyclicAddEquiv <| isAddCyclic_additive_iff.2 h
+
+/-- Two cyclic additive groups of the same cardinality are isomorphic. -/
+noncomputable def addEquivofAddCyclicCardEq [AddGroup G] [AddGroup H] [hG : IsAddCyclic G]
```
Comment (MichaelStollBayreuth) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:724]:
```suggestion
noncomputable def addEquivOfAddCyclicCardEq [AddGroup G] [AddGroup H] [hG : IsAddCyclic G]
```

**Comment by alreadydone** [comment]
I'm thinking maybe we should just upgrade [finEquivZmultiples](https://leanprover-community.github.io/mathlib4_docs/Mathlib/GroupTheory/OrderOfElement.html#finEquivZmultiples) to an AddMonoidHom ... (when the order is infinite (0) it's [Int.castAddHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Int/Cast/Lemmas.html#Int.castAddHom)). It's certainly nice to have a computable (in the forward direction) version that takes an arbitrary element, not an arbitrarily chosen generator. We can then specialize it to the cyclic case. Also, there are currently several `hcard ▸` that will prevent the terms from reducing, and we may want to introduce a `ZMod.castRingEquiv` similar to [Fin.cast](https://leanprover-community.github.io/mathlib4_docs/Std/Data/Fin/Basic.html#Fin.cast) to get around the problem. I'm suggesting this because if we're gonna do finite group theory more heavily we probably want the Lean kernel to help checking computations.

**Comment by yongyi781** [comment]
I'm also quite interested in the computational possibilities in the future.
I started doing something for the latest suggestion, but I was not able to make my `zmodZmultiplesHom` function computable because `addOrderOf` and `orderOf` are noncomputable!

**Review by jcommelin — APPROVED** [review]
Please fix the build, and merge afterwards.

bors d+
